US08217069B2
5-Chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitroanisole
To a suspension of 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)anisole (8.6 g) in acetic anhydride (54 mL) was added 60% nitric acid (2.9 mL) in a dropwise manner under ice-cooling, and the mixture was stirred under ice-cooling for 30 minutes. To the reaction mixture was added water (54 mL) in a dropwise manner, and the resulting mixture was stirred under ice-cooling for 30 minutes. The precipitated crystals were collected by filtration. The collected crystals were washed with water and a mixed solvent (n-hexane/ethanol=4/1), and dried under reduced pressure to give the title compound (9.41 g).

reactant | 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)anisole | 8.6 g | ClC=1C=CC(=C(C1)OC)OCC1=C(C(=CC=C1OC)F)F | C15H13ClF2O3
reactant | nitric acid | 2.9 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 54 mL | O | H2O
solvent | acetic anhydride | 54 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitroanisole | 9.41 g | ClC=1C(=CC(=C(C1)OC)OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-] | C15H12ClF2NO5
